US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.58 g) and [(6-ethylpyridin-3-yl)methyl](4-isopropylphenyl)amine (0.71 g) as starting materials, N-[(6-ethylpyridin-3-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.69 g) was obtained.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.58 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | [(6-ethylpyridin-3-yl)methyl](4-isopropylphenyl)amine | 0.71 g | C(C)C1=CC=C(C=N1)CNC1=CC=C(C=C1)C(C)C | C17H22N2
product | N-[(6-ethylpyridin-3-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.69 g | C(C)C1=CC=C(C=N1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C29H34N2O2
